US08217066B2
Step 1: 5-(4-Bromo-phenyl)-4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazole:
1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-phenyl-butan-1-ol (4.2 g, 10.9 mmol) was dissolved in DMF (60 mL). tert-Butyldimethylsilyl chloride (4.92 g, 7.93 mmol) and imidazole (2.22 g, 32.6 mmol) were added and the reaction stirred at room temperature until completion. The reaction was submitted to aqueous workup to afford the title compound.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-phenyl-butan-1-ol | 10.9 mmol, 4.2 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CCCC1=CC=CC=C1)O | C20H20BrNO2
reactant | tert-Butyldimethylsilyl chloride | 7.93 mmol, 4.92 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 32.6 mmol, 2.22 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-(4-Bromo-phenyl)-4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CCCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C26H34BrNO2Si
